US09290454B2
Hydroxylamine hydrochloride (183 mg, 2.64 mmol) was added to a stirred, room temperature mixture of tert-butyl 5-(6-cyano-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (185 mg, 0.440 mmol) and K2CO3 (365 mg, 2.64 mmol) in MeOH (20 mL) and the mixture was stirred at room temperature for overnight. The mixture was diluted with dichloromethane (60 mL), washed with aqueous ammonium chloride (saturated, 1×20 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to give tert-butyl 5-(2-(4-fluorophenyl)-6-(N′-hydroxycarbamimidoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (200 mg, 0.441 mmol) as an off white solid.

reactant | Hydroxylamine hydrochloride | 2.64 mmol, 183 mg | Cl.NO
reactant | tert-butyl 5-(6-cyano-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.440 mmol, 185 mg | C(#N)C=1C=C2C=C(N(C(C2=CC1)=O)C1=CC=C(C=C1)F)CCCCC(=O)OC(C)(C)C | C25H25FN2O3
reactant | K2CO3 | 2.64 mmol, 365 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | tert-butyl 5-(2-(4-fluorophenyl)-6-(N′-hydroxycarbamimidoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.441 mmol, 200 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)C(N)=NO)=O | C25H28FN3O4
